US07244843B2
Step A. Preparation of N,N-diethyl-4-bromo-2-(trifluormethoxy)benzamide
To a stirring solution of 4-bromo-1-iodo-2-(trifluormethoxy)benzene (11600 mg, 32 mmol) in dry THF (300 mL) at −78° C. under Ar was added 2.5M n-butyllithium in hexanes (25 mL) dropwise. The reaction was stirred for 1.5 h and then quenched with crushed dry ice. The reaction was stirred for 30 min and then slowly wammed to room temperature. The reaction was partioned between 1 M hydrochloric acid in brine EtOAc. The organic layers were separated, washed with sat. aq. NaHSO3, dried over Na2SO4, and conc in vacuo to a brown oil. The oil was dissolved in dry CH2Cl2 (300 mL) with dry DMF (0.2 mL) and then treated with oxalyl chloride in CH2Cl2 (32 mL) dropwise. The reaction was stirred for 4 h and then conc in vacuo to a brown oil. The oil was dissolved in dry CH2Cl2 (300 mL) and then treated with diethylamine (5767 mg, 79 mmol) dropwise. The reaction was stirred for 48 h and then conc in vacuo to a brown oil. The oil was purified by flash chromatography (SiO2, 1:2, EtOAc:hexanes) to yield 8500 mg of the product as a colorless oil. MS (ESI) 341 (M+H).

reactant | 4-bromo-1-iodo-2-(trifluormethoxy)benzene | 32 mmol, 11600 mg | BrC1=CC(=C(C=C1)I)OC(F)(F)F | C7H3BrF3IO
reactant | n-butyllithium | 2.5M | C(CCC)[Li]
reactant | diethylamine | 79 mmol, 5767 mg | C(C)NCC | C4H11N
reactant | THF | 300 mL | C1CCOC1 | C4H8O
product | N,N-diethyl-4-bromo-2-(trifluormethoxy)benzamide | 8500 mg | C(C)N(C(C1=C(C=C(C=C1)Br)OC(F)(F)F)=O)CC | C12H13BrF3NO2
